US07759373B2
A mixture of ethyl 5-bromo-2-(4-fluorophenyl)oxazol-4-carboxylate (600 mg), 0.05M (4-chloro-3-fluorophenyl) zinc bromide (6 ml, tetrahydrofuran solution), and tetrakis-(triphenylphosphine) palladium (231 mg) in tetrahydrofuran (5 ml) was stirred under argon atmosphere at room temperature for 2 hours, followed by refluxing for 40 minutes. The reaction mixture was cooled and concentrated under reduced pressure, and water was added to the residue and the mixture was extracted with ethyl acetate. The organic layer was successively washed with 10% hydrochloric acid, a saturated aqueous sodium hydrogen carbonate solution and brine, dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (solvent: ethyl acetate:n-hexane=1:8) to obtain ethyl 5-(4-chloro-3-fluoro-phenyl)-2-(4-fluorophenyl)oxazol-4-carboxylate (580 mg) as pale reddish solid.

reactant | ethyl 5-bromo-2-(4-fluorophenyl)oxazol-4-carboxylate | 600 mg | BrC1=C(N=C(O1)C1=CC=C(C=C1)F)C(=O)OCC | C12H9BrFNO3
reactant | (4-chloro-3-fluorophenyl) zinc bromide | 0.05M, 6 ml | [Br-].ClC1=C(C=C(C=C1)[Zn+])F
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | tetrakis-(triphenylphosphine) palladium | 231 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | ethyl 5-(4-chloro-3-fluoro-phenyl)-2-(4-fluorophenyl)oxazol-4-carboxylate | 580 mg | ClC1=C(C=C(C=C1)C1=C(N=C(O1)C1=CC=C(C=C1)F)C(=O)OCC)F | C18H12ClF2NO3
